US05977152
(2R,3R)-2-(2,4-Difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-[[trans-2-[(1E,3E,5E)-6-[4-(trifluoromethyl)phenyl]-1,3,5-hexatrien-1-yl]-1,3-dioxan-5-yl]thio]-2-butanol
Reaction was carried out in the same manner as in Example 4 using (2R,3R)-2-(2,4-difluorophenyl)-3-[(1,3-dihydroxy-2-propyl)thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol and (2E,4E,6E)-7-[4-(trifluoromethyl)phenyl]-2,4,6-heptatrienal as described in Reference example 28 to obtain the title compound, a major product as an oil in a yield of 65%.

reactant | (2R,3R)-2-(2,4-difluorophenyl)-3-[(1,3-dihydroxy-2-propyl)thio]-1-(1H-1,2,4-triazol-1-yl)-2-butanol | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)SC(CO)CO)O | C15H19F2N3O3S
reactant | (2E,4E,6E)-7-[4-(trifluoromethyl)phenyl]-2,4,6-heptatrienal | FC(C1=CC=C(C=C1)/C=C/C=C/C=C/C=O)(F)F | C14H11F3O
product | (2R,3R)-2-(2,4-Difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-3-[[trans-2-[(1E,3E,5E)-6-[4-(trifluoromethyl)phenyl]-1,3,5-hexatrien-1-yl]-1,3-dioxan-5-yl]thio]-2-butanol | yield of 65% | FC1=C(C=CC(=C1)F)[C@@](CN1N=CN=C1)([C@@H](C)S[C@H]1CO[C@@H](OC1)\C=C\C=C\C=C\C1=CC=C(C=C1)C(F)(F)F)O | C29H28F5N3O3S
